US07378415B2
A solution of 2-amino-5-benzenesulfonyl-phenol (0.392 g., 1.57 mmol) in 10 mL of acetonitrile was cooled to O° C. To this solution was added sodium bicarbonate (0.263 g., 3.14 mmol) in 4 mL water. With stirring, 2-chloroacetyl chloride (0.162 mL, 2.097 mmol) was added dropwise over 2 minutes. Stirring was continued for one hour as the reaction mix was warmed to room temperature. Potassium carbonate (0.261 g., 1.89 mmol) was then added and the system was warmed to reflux (85° C.) for two hours. The reaction mixture was added to 50 mL EtOAc, the aqueous fraction was separated and the organic layer was washed twice with 50 mL water, dried over Na2SO4 and concentrated in vacuo. The crude solid was recrystallized from a mixture of 30 mL each of ethanol and water to give 0.382 g (1.32 mmol, 84%) of 7-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one as a yellow solid. MS: 288 (M−H)−. Step 6:

reactant | 2-amino-5-benzenesulfonyl-phenol | 1.57 mmol, 0.392 g | NC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)O | C12H11NO3S
reactant | sodium bicarbonate | 3.14 mmol, 0.263 g | C([O-])(O)=O.[Na+]
reactant | 2-chloroacetyl chloride | 2.097 mmol, 0.162 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | Potassium carbonate | 1.89 mmol, 0.261 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 4 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 7-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one | 1.32 mmol, 0.382 g, 84% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C14H11NO4S
